US04925864
Preparation of 5-amino-3-(tert-butyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-1,2,4-triazole
7.0 g (0.02 mol) of 2,2-dimethylpropionyl chloride 2,6-dichloro-4-trifluoromethylphenylhydrazone and 1.7 g (0.04 mol) of cyanamide were added to 100 ml of tetrahydrofuran. Then, 4.0 g (0.04 mol) of triethylamine was dropwise added under reflux and stirring. After completion of the dropwise addition, the stirring was continued at the same temperature for further 1 hour. After cooling, the reaction solution was poured into water, and the precipitate was extracted with toluene. The organic layer was washed with water and dried. Then, the solvent was distilled off under reduced pressure, and the residue was washed with n-hexane to obtain 5.3 g (yield: 74.6%) of the desired compound as white prismatic crystals. The melting point: 208°-212° C.

reactant | 2,2-dimethylpropionyl chloride 2,6-dichloro-4-trifluoromethylphenylhydrazone | 0.02 mol, 7.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN=C(C(C)(C)C)Cl | C12H12Cl3F3N2
reactant | cyanamide | 0.04 mol, 1.7 g | N#CN | CH2N2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | triethylamine | 0.04 mol, 4.0 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 5-amino-3-(tert-butyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-1,2,4-triazole | 5.3 g, yield: 74.6% | NC1=NC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(C)(C)C | C13H13Cl2F3N4
